US06169107A
Preparation of methyl 1-isopropyl-5-indolecarboxylate
A mixture of 2.20 g (8.97 mmol) of isopropyl 1-isopropyl-5-indolecarboxylate, 100 ml of 2N sodium hydroxide solution and 100 ml of ethanol was refluxed for an hour. The solvent was then distilled off under reduced pressure. Thereafter water was added to the residue and the resulting mixture was acidified with conc. hydrochloric acid. The precipitated solid was filtered and dried under reduced pressure to give 2.00 g of crude 1-isopropyl-5-indole-carboxylic acid. The reaction was carried out in a manner similar to Reference Example 4 using 2.00 g of the crude 1-isopropyl-5-indolecarboxylic acid, 0.44 g (11.1 mmol) of 60% sodium hydride, 2.87 g (20.2 mmol) of methyl iodide and 50 ml of dimethyl-formamide. Thus, 1.64 g (84.2%; yield based on isopropyl 1-isopropyl-5-indolecarboxylic acid) was obtained.

reactant | 1-isopropyl-5-indolecarboxylic acid | 2.00 g | C(C)(C)N1C=CC2=CC(=CC=C12)C(=O)O | C12H13NO2
reactant | sodium hydride | 11.1 mmol, 0.44 g | [H-].[Na+]
reactant | methyl iodide | 20.2 mmol, 2.87 g | CI | CH3I
solvent | dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 1-isopropyl-5-indolecarboxylate | C(C)(C)N1C=CC2=CC(=CC=C12)C(=O)OC | C13H15NO2
